US06124323
1-[2-(4-Hydroxy-3-fluorophenoxy)ethyl]-4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride
The title compound was prepared from 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride (311.7 mg, 1.28 mmol), 2-(4-benzoxy-3-fluorophenoxy)ethyl bromide (411 mg, 1.28 mmol), potassium carbonate (444 mg, 3.2 mmol) in two steps as white-off solid (270 mg), mp 128-130° C. 1H NMR (CD3OD) 1.40 (m, 2 H), 1.704 (m, 3 H), 2.114 (s, 3 H), 2.422 (d, J=6.3 Hz, 2 H), 2.837 (m, 2 H), 3.303 (m, 2 H), 3.430 (d, J=11.4 Hz, 2 H), 4.072 (m, 2 H), 6.50 (m, 1 H), 6.632-6.750 (m, 4 H), 6.90 (m, 1 H). Anal. Calcd for C21H26ClF2NO2.0.4H2O: C, 62.25; H, 6.67; N, 3.46. Found: C, 62.20; H, 6.61; N, 3.22.

reactant | 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride | 1.28 mmol, 311.7 mg | Cl.FC1=C(CC2CCNCC2)C=CC(=C1)C
reactant | 2-(4-benzoxy-3-fluorophenoxy)ethyl bromide | 1.28 mmol, 411 mg | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)F | C15H14BrFO2
reactant | potassium carbonate | 3.2 mmol, 444 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(4-Hydroxy-3-fluorophenoxy)ethyl]-4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride | Cl.OC1=C(C=C(OCCN2CCC(CC2)CC2=C(C=C(C=C2)C)F)C=C1)F | InChI=1S/C21H25F2NO2.ClH/c1-15-2-3-17(19(22)12-15)13-16-6-8-24(9-7-16)10-11-26-18-4-5-21(25)20(23)14-18;/h2-5,12,14,16,25H,6-11,13H2,1H3;1H
